US04560692
(d) 4,6-Dichloro-2-(4-fluorophenyl)quinoline
To a solution of 5.5 ml (50 mmol) of 1-bromo-4-fluorobenzene in 70 ml of ether cooled to -40° was added 21 ml of a 2.4M solution of butyl lithium in hexane while maintaining the temperature below -15°. This mixture was stirred at -15° for 15 min. A solution of 7.42 g (40 mmol) of 4,6-dichloroquinoline in 40 ml of tetrahydrofuran was added while maintaining the temperature at -20°. It was allowed to warm to 0° during 15 min. To the reaction mixture was then added 10 ml of water and 10.16 g (40 mmol) of iodine, and 15 ml of 3N sodium hydroxide. After 10 min of stirring this mixture was then cooled to 5°, and the solid collected. This solid was dissolved in methylene chloride, and the solution filtered through a plug of alumina. The filtrate was concentrated in vacuo to leave a residue which was crystallized from ethyl acetate to give 5.7g of crude product, mp 150°-156°.

reactant | 1-bromo-4-fluorobenzene | 50 mmol, 5.5 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | butyl lithium | C(CCC)[Li]
reactant | 4,6-dichloroquinoline | 40 mmol, 7.42 g | ClC1=CC=NC2=CC=C(C=C12)Cl | C9H5Cl2N
reactant | iodine | 40 mmol, 10.16 g | II | I2
reactant | sodium hydroxide | 3N, 15 ml | [OH-].[Na+]
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4,6-Dichloro-2-(4-fluorophenyl)quinoline | 5.7g | ClC1=CC(=NC2=CC=C(C=C12)Cl)C1=CC=C(C=C1)F | C15H8Cl2FN
